US07091363B2
(2S, 4S)-4-mercapto-1-methyl-2-pyrrolidinecarboxylic acid hydrochloride (Step C5)
A mixed solution of methyl (2S,4S)-4-acetylthio-1-methyl-2-pyrrolidinecarboxylate (10.7 g), concentrated hydrochloric acid (14.9 g) and water (16 mL) was stirred at from 75 to 85° C. for 5 hours. After completion of the reaction, the water in the reaction mixture was removed by distillation under reduced pressure. Acetic acid (10 mL) and ethyl acetate (20 mL) were added to the residue, which was stirred at from 0 to 5° C. for 1 hour. The crystals which precipitated were collected by filtration to give the title compound (9.2 g, yield 95%). Nuclear magnetic resonance spectrum (400 MHz, CDCl3) δ(ppm): 2.11–2.20 (m, 1H), 2.97–3.05 (m, 1H), 3.02 (s, 3H), 3.56–3.68 (m, 2H), 3.80–3.88 (m, 1H), 4.35–4.41 (m, 1H).

reactant | methyl (2S,4S)-4-acetylthio-1-methyl-2-pyrrolidinecarboxylate | 10.7 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C)C(=O)OC | C9H15NO3S
reactant | hydrochloric acid | 14.9 g | Cl | ClH
solvent | water | 16 mL | O | H2O
product | (2S, 4S)-4-mercapto-1-methyl-2-pyrrolidinecarboxylic acid hydrochloride | 9.2 g, yield 95% | Cl.S[C@H]1C[C@H](N(C1)C)C(=O)O | InChI=1S/C6H11NO2S.ClH/c1-7-3-4(10)2-5(7)6(8)9;/h4-5,10H,2-3H2,1H3,(H,8,9);1H/t4-,5-;/m0./s1
